US07208524B2
To a solution of 500 mg of 2,2,2-trifluoro-N-[2-(2-hydroxy-4-isopropylphenyl)-2-oxoethyl]acetamide in 2.63 mL of trifluoroacetic acid was added 0.94 mL of triethylsilane. After being stirred at room temperature for 13 hours, the reaction mixture was concentrated and dried thoroughly. The obtained residue and 382 mg of potassium carbonate were suspended in 10 mL of N,N-dimethylformamide, and 0.288 mL of ethyl bromoacetate was added to the stirred mixture under ice-cooling. The mixture was stirred at room temperature for 15 hours, and to the reaction mixture was added water. After the mixture was extracted with ethyl acetate, the organic layer was washed successively with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the obtained residue was purified by column chromatography on silica gel (eluent: ethyl acetate-hexane) to give 535 mg of ethyl [5-isopropyl-2-[2-(2,2,2-trifluoroacetylamino)ethyl]-phenoxy]acetate.

reactant | 2,2,2-trifluoro-N-[2-(2-hydroxy-4-isopropylphenyl)-2-oxoethyl]acetamide | 500 mg | FC(C(=O)NCC(=O)C1=C(C=C(C=C1)C(C)C)O)(F)F | C13H14F3NO3
reactant | triethylsilane | 0.94 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 2.63 mL | FC(C(=O)O)(F)F | C2HF3O2
product | ethyl [5-isopropyl-2-[2-(2,2,2-trifluoroacetylamino)ethyl]-phenoxy]acetate | 535 mg | C(C)(C)C=1C=CC(=C(OCC(=O)OCC)C1)CCNC(C(F)(F)F)=O | C17H22F3NO4
